US08541588B2
N-(5-Chloro-1,3-thiazol-2-yl)-3-cyano-4-[4-chloro-2-(1H-pyrazol-4-yl)phenoxy]benzenesulfonamide
The title compound was prepared according to the same method as that used for Example 785 above using 4-(4-chloro-2-iodophenoxy)-N-(5-chloro-1,3-thiazol-2-yl)-3-cyanobenzenesulfonamide (Preparation 219) and 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole as starting materials. Purification by preparative HPLC afforded the title compound. Yield 7.8 mg 17%.

reactant | 4-(4-chloro-2-iodophenoxy)-N-(5-chloro-1,3-thiazol-2-yl)-3-cyanobenzenesulfonamide | ClC1=CC(=C(OC2=C(C=C(C=C2)S(=O)(=O)NC=2SC(=CN2)Cl)C#N)C=C1)I | C16H8Cl2IN3O3S2
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
product | N-(5-Chloro-1,3-thiazol-2-yl)-3-cyano-4-[4-chloro-2-(1H-pyrazol-4-yl)phenoxy]benzenesulfonamide | ClC1=CN=C(S1)NS(=O)(=O)C1=CC(=C(C=C1)OC1=C(C=C(C=C1)Cl)C=1C=NNC1)C#N | C19H11Cl2N5O3S2
